### PR TITLE
feat: define Boolean circuits over abstract gate families

### PR DESCRIPTION
**Pull request by dennj**
This PR introduces a foundation for Boolean circuits parameterized by abstract gate families.

## Main definitions

- `GateEval`: typeclass for gate families with Boolean semantics
- `GateHom`: arity-preserving maps between gate families
- `Circuit`: inductive type representing circuit syntax trees
- `AC0Gate`, `ACC0Gate`, `TC0Gate`: standard complexity-theoretic gate bases

## Design notes

The key design choice is to keep **syntax** (gate labels `G : Nat → Type`) separate from
**semantics** (`GateEval.eval`), allowing users to define custom gate families (e.g., MAJ, XOR,
arbitrary threshold gates) without modifying core definitions.

### Tree vs DAG representation

We evaluated two approaches for circuit representation:

1. **Tree-based** (this PR): Circuits as inductive syntax trees
2. **DAG-based**: Circuits as lists of gates with index-based references

We chose tree-based circuits because:

- **Compositionality**: Easy to build circuits via `gate g (fun i => subcircuit i)`
- **Type safety**: Arity-indexed gates (`G : Nat → Type`) catch errors at compile time
- **Manipulation**: Natural support for `mapGate`, `subst`, `mapInputs`
- **Mathlib philosophy**: Aligns with structural/compositional reasoning patterns

For use cases requiring explicit sharing (complexity analysis, evaluation efficiency),
a separate `DAG` type can be added later with proven equivalence via `Circuit.toDAG`.

The current representation serves as a minimal foundation for size/depth measures,
circuit families, and complexity classes (AC0, ACC0, TC0).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Computability/Gate.lean [hunk 1]
```diff
@@ -0,0 +1,273 @@
...
+@[expose] public section
+
+namespace Computability
+
+namespace Circuit
+
+/-- Semantics for an arity-indexed family of gate labels `G : Nat → Type`. -/
+class GateEval (G : Nat → Type) : Type where
+  /-- Evaluate a gate of arity `n` on an `n`-bit input vector. -/
+  eval : ∀ {n : Nat}, G n → (Fin n → Bool) → Bool
```
Comment (LLaurance) [inline Mathlib/Computability/Gate.lean:55]: Just wanted to let you know there is a [`BitVec`](https://leanprover-community.github.io/mathlib4_docs/Init/Prelude.html#BitVec) should you choose to use that instead of `Fin n → Bool`.

File: Mathlib/Computability/Circuit/Gate.lean [hunk 2]
```diff
@@ -0,0 +1,273 @@
...
+
+@[simp] theorem comp_map {G H K : Nat → Type} (g : GateHom H K) (f : GateHom G H) (n : Nat)
+    (x : G n) :
+    (comp g f).map n x = g.map n (f.map n x) :=
+  rfl
+
+@[simp] theorem comp_id {G H : Nat → Type} (f : GateHom G H) : comp f (id G) = f :=
+  rfl
+
+@[simp] theorem id_comp {G H : Nat → Type} (f : GateHom G H) : comp (id H) f = f :=
```
Comment (LLaurance) [inline Mathlib/Computability/Circuit/Gate.lean:82]:
```suggestion
@[simp] theorem comp_id' {G H : Nat → Type} (f : GateHom G H) : comp (id H) f = f :=
```

File: Mathlib/Computability/Circuit/Gate.lean [hunk 3]
```diff
@@ -0,0 +1,273 @@
...
+  ⟨fun _ g => g⟩
+
+/-- Composition of gate homomorphisms. -/
+def comp {G H K : Nat → Type} (g : GateHom H K) (f : GateHom G H) : GateHom G K :=
+  ⟨fun n x => g.map n (f.map n x)⟩
+
+@[simp] theorem id_map {G : Nat → Type} (n : Nat) (x : G n) : (id G).map n x = x :=
+  rfl
+
+@[simp] theorem comp_map {G H K : Nat → Type} (g : GateHom H K) (f : GateHom G H) (n : Nat)
```
Comment (LLaurance) [inline Mathlib/Computability/Circuit/Gate.lean]:
```suggestion
@[simp] theorem map_comp {G H K : Nat → Type} (g : GateHom H K) (f : GateHom G H) (n : Nat)
```

File: Mathlib/Computability/Gate.lean [hunk 4]
```diff
@@ -0,0 +1,273 @@
...
+
+/-- An arity-preserving map between gate label families. This is purely *syntactic*; compatibility
+with semantics is expressed separately when needed. -/
+structure GateHom (G H : Nat → Type) : Type where
+  /-- Map a gate label of arity `n` to a gate label of arity `n`. -/
+  map : ∀ n : Nat, G n → H n
+
```
Comment (LLaurance) [inline Mathlib/Computability/Gate.lean:62]: I suspect making `n` implicit (like for `GateEval`) may make things a bit easier.

File: Mathlib/Computability/Circuit/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,212 @@
...
+    (c : Circuit G n) (x : Fin n → Bool) :
+    eval (mapGate (G := G) (n := n) φ c) x = eval c x := by
+  induction c with
+  | input i => rfl
+  | const b => rfl
+  | gate g f ih =>
+      simp [mapGate, eval, hφ, ih]
+
+theorem mapInputs_id (c : Circuit G n) :
+    mapInputs (G := G) c (fun i => i) = c := by
```
Comment (LLaurance) [inline Mathlib/Computability/Circuit/Basic.lean]:
```suggestion
@[simp]
theorem mapInputs_id (c : Circuit G n) :
    mapInputs c id = c := by
```

File: Mathlib/Computability/Circuit/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,212 @@
...
+    subst (G := G) (subst (G := G) c σ₁) σ₂ =
+      subst (G := G) c (fun i => subst (G := G) (σ₁ i) σ₂) := by
+  induction c with
+  | input i => rfl
+  | const b => rfl
+  | gate g f ih =>
+      simp [subst, ih]
+
+theorem mapGate_id (c : Circuit G n) :
+    mapGate (G := G) (n := n) (GateHom.id G) c = c := by
```
Comment (LLaurance) [inline Mathlib/Computability/Circuit/Basic.lean]:
```suggestion
@[simp]
theorem mapGate_id {G : ℕ → Type} {n : Nat} (c : Circuit G n) :
    mapGate (GateHom.id G) c = c := by
```

File: Mathlib/Computability/Circuit/Basic.lean (hunk 5 above)
Comment (LLaurance) [reply Mathlib/Computability/Circuit/Basic.lean]: Certainly it should be possible to omit many of the provided variables such as `(G := G)` in other lemmas as well

File: Mathlib/Computability/Gate.lean (hunk 1 above)
Comment (dennj) [reply Mathlib/Computability/Gate.lean:55]: Thanks for the note. BitVec n could be an alternative representation. However, there are trade-offs to consider:

# Current approach (Fin n → Bool):

- Works naturally with Finset.filter and Finset.card for counting (as used in countTrue)
- Aligns with the functional style used throughout Mathlib's fintype machinery
- Easy to work with for pointwise operations and quantifiers (∀ i, x i = true)


# BitVec n approach:

- More efficient for actual computation (packed representation)
- Has built-in operations like popCount that could replace countTrue
- Better suited if you plan to interface with computational backends

For a complexity-theoretic development focused on circuit structure rather than efficient evaluation, the function-based representation is often cleaner for proofs

File: Mathlib/Computability/Gate.lean (hunk 4 above)
Comment (dennj) [reply Mathlib/Computability/Gate.lean:62]: chage accepted

File: Mathlib/Computability/Circuit/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,214 @@
...
+
+@[expose] public section
+
+namespace Computability
+
+/-- A Boolean circuit over gate labels `G` with `n` input wires. -/
+inductive Circuit (G : Nat → Type) (n : Nat) : Type where
+  | input : Fin n → Circuit G n
+  | const : Bool → Circuit G n
+  | gate : {k : Nat} → G k → (Fin k → Circuit G n) → Circuit G n
```
Comment (LLaurance) [inline Mathlib/Computability/Circuit/Basic.lean]:
```suggestion
  | gate {k : Nat} : G k → (Fin k → Circuit G n) → Circuit G n
```

File: Mathlib/Computability/Circuit/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,214 @@
...
+variable {G : Nat → Type} {n : Nat}
+
+/-- Map gate labels along a `GateHom`. -/
+def mapGate {H : Nat → Type} (φ : GateHom G H) : Circuit G n → Circuit H n
+  | input i => input i
+  | const b => const b
+  | gate g f => gate (φ.map g) (fun i => mapGate φ (f i))
+
+@[simp] theorem mapGate_input {H : Nat → Type} (φ : GateHom G H) (i : Fin n) :
+    mapGate (G := G) (n := n) φ (input i) = input i :=
```
Comment (LLaurance) [inline Mathlib/Computability/Circuit/Basic.lean]: These variables `G` and `n` do not need to be provided. Same below

File: Mathlib/Computability/Circuit/Gate.lean [hunk 9]
```diff
@@ -0,0 +1,273 @@
...
+
+/-- Identity gate homomorphism. -/
+def id (G : Nat → Type) : GateHom G G :=
+  ⟨fun g => g⟩
+
+/-- Composition of gate homomorphisms. -/
+def comp {G H K : Nat → Type} (g : GateHom H K) (f : GateHom G H) : GateHom G K :=
+  ⟨fun x => g.map (f.map x)⟩
+
+@[simp] theorem id_map {G : Nat → Type} {n : Nat} (x : G n) : (id G).map x = x :=
```
Comment (LLaurance) [inline Mathlib/Computability/Circuit/Gate.lean]:
```suggestion
@[simp] theorem map_id {G : Nat → Type} {n : Nat} (x : G n) : (id G).map x = x :=
```

File: Mathlib/Computability/Circuit/Basic.lean (hunk 8 above)
Comment (dennj) [reply Mathlib/Computability/Circuit/Basic.lean]: I accepted this change

**Comment by YuvalFilmus** [comment]
Circuits in the form of a tree are known in circuit complexity as _formulas_.
Over on CSLib there is a discussion on how to formalize circuits, with much disagreement.
In the literature, circuits are often conceptualized as DAGs, but implicitly analyzed as straight-line programs.

It would be misleading to define the (well-known) concept of Boolean formula and refer to it as a Boolean circuit.
Do you have a clear roadmap for defining honest-to-god Boolean circuits using your formalism?
